US07034044B2
c) 2-Bromo-6-ethyl-pyridin-4-yl-amine
A solution of 2-bromo-6-ethyl-4-nitro-pyridine 1-oxide (15.9 g, 69 mmol) in acetic acid (310 ml) was treated with powdered iron (25.8 g, 462 mmol). The mixture was slowly heated to 100° C. and kept for 1 hr. Then the reaction mixture was cooled to rt and filtered. After evaporation of the solvent the residue was crystallized to yield the title compound as a beige material (88%). Mp. 75–77° C. (pentane), MS: m/e=200 (M+).

reactant | 2-bromo-6-ethyl-4-nitro-pyridine 1-oxide | 69 mmol, 15.9 g | BrC1=[N+](C(=CC(=C1)[N+](=O)[O-])CC)[O-] | C7H7BrN2O3
solvent | acetic acid | 310 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 462 mmol, 25.8 g | [Fe] | Fe
product | 2-Bromo-6-ethyl-pyridin-4-yl-amine | BrC1=NC(=CC(=C1)N)CC | C7H9BrN2
